US04012499
3-Cyano-7-ethylthioxanthone (5.3g), sodium azide (1.55g), and ammonium chloride (1.26g) in dimethylformamide were heated at 120° C. for 3 hr., cooled, and poured into dilute hydrochloric acid. The solid precipitate was filtered off and recrystallised twice from acetic acid to yield 7-ethyl-3-(5-tetrazolyl) thioxanthone m.p. 247° C. with decomposition. Found: C 61.92%; H 4.05%; N 18.18%. C16H12N4OS requires C 62.32%; H 3.92%; N 18.17%.

reactant | 3-Cyano-7-ethylthioxanthone | 5.3g | C(#N)C=1C=CC=2C(C3=CC(=CC=C3SC2C1)CC)=O | C16H11NOS
reactant | sodium azide | 1.55g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.26g | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-ethyl-3-(5-tetrazolyl) thioxanthone | C(C)C1=CC=C2SC=3C=C(C=CC3C(C2=C1)=O)C1=NN=NN1 | C16H12N4OS
